### PR TITLE
[Merged by Bors] - feat(Algebra/MvPolynomial): nilpotents and units

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Nilpotent.lean [hunk 1]
```diff
@@ -0,0 +1,98 @@
...
+@[simp]
+lemma Finsupp.some_update_none {α M : Type*} [Zero M] (P : Option α →₀ M) (a : M) :
+    (P.update .none a).some = P.some := by
+  ext; simp [Finsupp.update]
+
+namespace MvPolynomial
+
+variable {σ R : Type*} [CommRing R] {P : MvPolynomial σ R}
+
+-- Subsumed by `isNilpotent_iff_of_fintype` below.
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Nilpotent.lean:37]:
```suggestion
-- Subsumed by `isNilpotent_iff` below.
```

File: Mathlib/Algebra/MvPolynomial/Nilpotent.lean [hunk 2]
```diff
@@ -0,0 +1,98 @@
...
+
+instance : IsLocalHom (C : _ →+* MvPolynomial σ R) where
+  map_nonunit := by classical simp +contextual [isUnit_iff, coeff_C, apply_ite]
+
+instance : IsLocalHom (algebraMap R (MvPolynomial σ R)) :=
+  inferInstanceAs (IsLocalHom C)
+
+theorem isUnit_iff_totalDegree_of_isDomain {σ R : Type*} [CommRing R] [IsDomain R]
+    {P : MvPolynomial σ R} :
+    IsUnit P ↔ IsUnit (P.coeff 0) ∧ P.totalDegree = 0 := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Nilpotent.lean:78]: I wonder if it's better to have `P = C u`, for some unit, on the RHS?

File: Mathlib/Algebra/MvPolynomial/Nilpotent.lean [hunk 3]
```diff
@@ -0,0 +1,98 @@
...
+@[simps]
+noncomputable
+def Finsupp.optionEquiv {α M : Type*} [Zero M] : (Option α →₀ M) ≃ M × (α →₀ M) where
+  toFun P := (P .none, P.some)
+  invFun P := (P.2.embDomain .some).update .none P.1
+  left_inv P := by ext (_|a) <;> simp [Finsupp.update]; simp [← Function.Embedding.some_apply]
+  right_inv P := by ext <;> simp [Finsupp.update]; simp [← Function.Embedding.some_apply]
+
+@[simp]
+lemma Finsupp.some_update_none {α M : Type*} [Zero M] (P : Option α →₀ M) (a : M) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Nilpotent.lean]: Does this lemma help with the equiv above if you swap the order?

File: Mathlib/Algebra/MvPolynomial/Nilpotent.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/Algebra/MvPolynomial/Nilpotent.lean:78]: I think the current formulation is useful at times, but I've added your suggestion as well.

File: Mathlib/Algebra/MvPolynomial/Nilpotent.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/Algebra/MvPolynomial/Nilpotent.lean]: Yeah I've already cleaned that up and moved them to the right file.

File: Mathlib/Algebra/MvPolynomial/Nilpotent.lean [hunk 4]
```diff
@@ -0,0 +1,90 @@
...
+  inferInstanceAs (IsLocalHom C)
+
+theorem isUnit_iff_totalDegree_of_isReduced [IsReduced R] :
+    IsUnit P ↔ IsUnit (P.coeff 0) ∧ P.totalDegree = 0 := by
+  convert isUnit_iff (P := P)
+  rw [totalDegree_eq_zero_iff]
+  simp [not_imp_comm (a := _ = (0 : R)), Finsupp.ext_iff]
+
+theorem isUnit_iff_eq_C_of_isReduced [IsReduced R] :
+    IsUnit P ↔ ∃ r, IsUnit r ∧ P = C r := by
```
Comment (alreadydone) [inline Mathlib/Algebra/MvPolynomial/Nilpotent.lean:84]: Could be used to solve [this](https://github.com/google-deepmind/formal-conjectures/blob/cd787dbe6edd33b8eb1045c20bf2bd38bc1d0416/FormalConjectures/Wikipedia/JacobianConjecture.lean) :)

**Review by alreadydone — COMMENTED** [review]
Thanks 🎉 
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
